US08278304B2
Step A: 4-Methyl-1H-pyrazole-1-carboximidamide hydrochloride.
To 4-Methyl-1H-pyrazole (4.9 g, 60 mmol) was added cyanamide (2.5 g, 60 mmol), HCl (5.6 mL, 62 mmol, 4 M in dioxane) and dioxane (60 mL). The reaction was heated to 110° C. and aged for 9 h. It was then aged at rt overnight. The mixture was diluted with Et2O and stirred for 10 min. The product was isolated by filtration and washed with Et2O to afford the title compound.

reactant | 4-Methyl-1H-pyrazole | 60 mmol, 4.9 g | CC=1C=NNC1 | C4H6N2
reactant | cyanamide | 60 mmol, 2.5 g | N#CN | CH2N2
reactant | HCl | 62 mmol, 4 M, 5.6 mL | Cl | ClH
reactant | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | 4-Methyl-1H-pyrazole-1-carboximidamide hydrochloride | Cl.CC=1C=NN(C1)C(N)=N | InChI=1S/C5H8N4.ClH/c1-4-2-8-9(3-4)5(6)7;/h2-3H,1H3,(H3,6,7);1H
